US05589477
(2) Preparation of 4-methoxybenzamidine hydrochloride
35.9 g of 4-methoxybenzimidic acid methylester hydrochloride was dissolved in 300 ml of methanol. After saturation with ammonia gas under cooling in ice-water and stirring, the solution was stirred at room temperature for 15 hours. Then, methanol was evaporated in vacuo. Ethyl acetate was added to the residue. The precipitated crystals were filtered off and dried. Whereby 30.9 g of the desired substance was obtained as white crystals. Melting point is 220° to 221° C.

reactant | 4-methoxybenzimidic acid methylester hydrochloride | 35.9 g | Cl.COC(C1=CC=C(C=C1)OC)=N
reactant | ammonia | N | H3N
solvent | methanol | 300 ml | CO | CH4O
product | 4-methoxybenzamidine hydrochloride | Cl.COC1=CC=C(C(=N)N)C=C1 | InChI=1S/C8H10N2O.ClH/c1-11-7-4-2-6(3-5-7)8(9)10;/h2-5H,1H3,(H3,9,10);1H
